US05703109
1-[1-(4-cyanophenyl)-2-hydroxy-4-phenylbutyl]-1,2,4-triazole is prepared by the method described in Example 1 starting from 1-(4-cyano-benzyl)-1,2,4-triazole (2.0 g, 0.0108 mol), n-BuLi (0.0108 mol) and 3-phenylpropionaldehyde (1.74 g, 0.013 mol). The product is purified by flash chromatography.

reactant | 1-(4-cyano-benzyl)-1,2,4-triazole | 0.0108 mol, 2.0 g | C(#N)C1=CC=C(CN2N=CN=C2)C=C1 | C10H8N4
reactant | n-BuLi | 0.0108 mol | [Li]CCCC
reactant | 3-phenylpropionaldehyde | 0.013 mol, 1.74 g | C1(=CC=CC=C1)CCC=O | C9H10O
product | 1-[1-(4-cyanophenyl)-2-hydroxy-4-phenylbutyl]-1,2,4-triazole | C(#N)C1=CC=C(C=C1)C(C(CCC1=CC=CC=C1)O)N1N=CN=C1 | C19H18N4O
